US04073770
1-(2'-hydroxyethyl)-2,2,4,6-tetramethyl decahydroquinoline was prepared. 50 grams of 2,2,4,6-tetramethyl decahydroquinoline and 50 milliliters of 1-octanol were placed into a reactor vessel equipped for heating and agitation and he mix heated to 200° C. Ethylene oxide was then slowly added to the reactor over a period of 7 hours. The reaction mixture was then distilled to yield a liquid product boiling at 106° C. at 0.5 mm Hg. The NMR and infrared spectra were consistent with the desired product. Calculated contents and analyzed contents of the product (formula of C15H29NO) were respectively: 75.26% carbon, 74.36% carbon found; 12.21% hydrogen, 12.24% hydrogen found; and 5.85% nitrogen, 6.04% nitrogen found.

reactant | 2,2,4,6-tetramethyl decahydroquinoline | 50 grams | CC1(NC2CCC(CC2C(C1)C)C)C | C13H25N
reactant | Ethylene oxide | C1CO1 | C2H4O
solvent | 1-octanol | 50 milliliters | C(CCCCCCC)O | C8H18O
product | 1-(2'-hydroxyethyl)-2,2,4,6-tetramethyl decahydroquinoline | OCCN1C(CC(C2CC(CCC12)C)C)(C)C | C15H29NO
